US07291631B2
A solution of 1-(3-methyl-pyridin-2-yl)-ethanol (330 mg, 2.41 mmol) (Kawasaki et al. Nippon Kagaku Zasshi 1962, 83, 949) and NEt3 (0.50 mL, 3.6 mmol) in CH2Cl2 (10 mL) was cooled to 0° C. under N2. MsCl (0.22 mL, 2.8 mmol) was added and the reaction was stirred at 0° C. for 15 minutes. The reaction was diluted with saturated aqueous NaHCO3 (10 mL), the layers were separated and the aqueous solution was extracted with CH2Cl2 (10 mL ×2). The combined organic solution was dried (MgSO4), filtered and concentrated under reduced pressure, giving the crude methanesulfonic acid 1-(3-methyl-pyridin-2-yl)-ethyl ester as an orange oil (484 mg, 2.25 mmol, 93%). 1H NMR (CDCl3) δ 1.76 (d, 3H, J=6.6 Hz), 2.45 (s, 3H), 2.84 (s, 3H), 6.07 (q, 1H, J=6.6 Hz), 7.20 (dd, 1H, J=7.8, 4.8 Hz), 7.51 (dd, 1H, J=7.8, 0.9 Hz), 8.51 (dd, 1H, J=4.8, 0.9 Hz).

reactant | 1-(3-methyl-pyridin-2-yl)-ethanol | 2.41 mmol, 330 mg | CC=1C(=NC=CC1)C(C)O | C8H11NO
reactant | NEt3 | 3.6 mmol, 0.50 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 2.8 mmol, 0.22 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | methanesulfonic acid 1-(3-methyl-pyridin-2-yl)-ethyl ester | 2.25 mmol, 484 mg, 93% | CC=1C(=NC=CC1)C(C)OS(=O)(=O)C | C9H13NO3S
